10
R0102 1 2 1
R0300 3 0 1
R0400 4 0 1
L0300 3 0 0.2
C0200 2 0 0.2
F0003 0 3 5 4 1
I0005 0 5 PULSE 1 3 0 0 0 0.5 1 0
V0600 6 0 SIN 0 1.273 1 0 0 0 0
V0706 7 6 SIN 0 4.24333333333333E-1 3 0 0 0 0
V0807 8 7 SIN 0 2.546E-1 5 0 0 0 0
V0908 9 8 SIN 0 1.81857142857143E-1 7 0 0 0 0
V1009 10 9 SIN 0 1.41444444444444E-1 9 0 0 0 0
V0110 1 10 SIN 0 1.15727272727272E-1 11 0 0 0 0
.TRAN 3 5E-4 14

